US07906654B2
2-(4-formyl-3-methylphenyl)-2-methylpropanenitrile 1.89 g, 10.2 mmol) is dissolved in 50 ml of 7M NH3 in MeOH. Ti(OiPr)4 (6 mmol, 20 mmol) is added and the mixture stirred for 3 hours at room temperature. NaBH4 (0.6 g, 15 mmol) is added and the reaction left at room temperature overnight. The mixture is quenched by the addition of 25 ml of NH4OH 2 M. The resulting precipitate is filtered off and washed with EtOAc. Phases are separated, the organic phase is dried over magnesium sulfate, filtered and evaporated to dryness, giving 2-[4-(aminomethyl)-3-methylphenyl]-2-methylpropanenitrile (1.325 g, 7.09 mmol, 87%). The crude product is used without further purification. 1H NMR (400 MHz, DMSO-D6) δ 1.64 (s, 6H, first rotamer) 1.65 (s, 6H, second rotamer) 2.28 (s, 3H, first rotamer) 2.29 (s, 3H, second rotamer) 3.32 (broad s, 2H) 3.67 (s, 2H, first rotamer) 3.68 (s, 2H, second rotamer) 7.24-7.27 (m, 1H) 7.28 (s, 1H) 7.36-7.40 (m, 1H).

reactant | 2-(4-formyl-3-methylphenyl)-2-methylpropanenitrile | 10.2 mmol, 1.89 g | C(=O)C1=C(C=C(C=C1)C(C#N)(C)C)C | C12H13NO
reactant | NaBH4 | 15 mmol, 0.6 g | [BH4-].[Na+]
reactant | NH3 | 7M, 50 ml | N | H3N
solvent | MeOH | CO | CH4O
catalyst | Ti(OiPr)4 | 6 mmol | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 2-[4-(aminomethyl)-3-methylphenyl]-2-methylpropanenitrile | 7.09 mmol, 1.325 g, 87% | NCC1=C(C=C(C=C1)C(C#N)(C)C)C | C12H16N2
